### PR TITLE
[Merged by Bors] - feat(CategoryTheory.Limits.IsConnected): colimit of singletons is singleton iff index category is connected

### PR DESCRIPTION
**Pull request by datokrat**
Create the module `Mathlib.CategoryTheory.Limits.IsConnected`.

The main theorem states that the colimit of singletons is a singleton if and only if the index category is connected.

This theorem will be necessary for the Freyd-Mitchell embedding theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by TwoFX — COMMENTED** [review]
`zag_of_hom` and `zigzag_of_hom` can go in `CategoryTheory/IsConnected.lean`, everything else I would put in a new file `Limits/IsConnected.lean`.

If you haven't done so yet, I recommend reading through these pages:

- https://leanprover-community.github.io/contribute/doc.html
- https://leanprover-community.github.io/contribute/naming.html
- https://leanprover-community.github.io/contribute/style.html

File: Mathlib/CategoryTheory/Limits/Irgendwas.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+  default := colimit.ι (unitValuedFunctor C) Classical.ofNonempty PUnit.unit
+
+noncomputable instance instNonemptyColimitPUnit [IsConnected C] :
+    Nonempty (colimit (unitValuedFunctor C)) := Nonempty.intro default
+
+noncomputable instance instUniqueColimitPUnit [IsConnected C] :
+    Unique (colimit (unitValuedFunctor C)) := Unique.mk' _
+
+noncomputable def colimitConstPUnitIsoPUnit [IsConnected C] :
+    colimit (unitValuedFunctor C) ≅ PUnit := (Equiv.equivOfUnique _ _).toIso
```
[the remark this answers is not in the document]
Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/Irgendwas.lean:43]: Thanks especially for the neat `\cdot` trick!

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 2]
```diff
@@ -0,0 +1,79 @@
...
+  induction h with
+  | rel _ _ h => exact zigzag_of_hom <| Exists.choose h
+  | refl _ => rfl
+  | symm _ _ _ ih => exact zigzag_symmetric ih
+  | trans _ _ _ _ _ ih₁ ih₂ => exact ih₁.trans ih₂
+
+/-- An index category is connected iff the colimit of the constant singleton-valued functor is a
+singleton.
+-/
+theorem connected_iff_colimit_const_pUnit_iso_pUnit :
```
[the remark this answers is not in the document]
Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean:63]: I don't know, do you know a good way to do this elegantly? For example, `jointly_surjective'` assume thats `domain F : TypeMax`. Is there a reason why all these lemmas are proved in this situation and not for arbitrary types? Right now, the best I can come up is trying to generalize `jointly_surjective'` and its dependencies -- quite invasive.

[the remark this answers is not in the document]
Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean:63]: I was able to generalize colimit_sound, too, so if I just use my generalization, it works.

**Comment by TwoFX** [comment]
I think we should strengthen this even more, namely we should also show that the colimit of the constant functor always exists if `C` is connected. See [my branch](https://github.com/leanprover-community/mathlib4/compare/master...fme-100-markus)

**Comment by joelriou** [comment]
In a review to #10420 I suggested improving the API for zigzag (in particular removing the `reducible` attribute to prevent leakage of the internals of the API), if possible try to coordinate with @dagurtomas in order to make sure API is consistent, see https://github.com/leanprover-community/mathlib4/pull/10420/commits/eb9ffb4710e2fe2146a49dc84665c3307790607a

**Comment by dagurtomas** [comment]
In #10420 I add your `zag_of_hom` under the name `Zag.of_hom` and more stuff, I can open a separate PR with only the `Zigzag` API that can hopefully be merged quickly and we'll make both this PR and #10420 depend on it.

**Comment by dagurtomas** [comment]
#11696

File: Mathlib/CategoryTheory/Limits/Types.lean [hunk 3]
```diff
@@ -592,6 +592,11 @@ theorem colimit_sound' {j j' : J} {x : F.obj j} {x' : F.obj j'} {j'' : J}
   rw [types_comp_apply, types_comp_apply, w]
 #align category_theory.limits.types.colimit_sound' CategoryTheory.Limits.Types.colimit_sound'
 
+theorem colimit_sound'' {F : J ⥤ Type u} [HasColimit F]
+    {j j' : J} {x : F.obj j} {x' : F.obj j'} (f : j ⟶ j')
+    (w : F.map f x = x') : colimit.ι F j x = colimit.ι F j' x' := by
+  rw [← colimit.w F f, types_comp_apply, w]
+
```
[the remark this answers is not in the document]
Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/Types.lean:599]: Interesting... You're right. Now idea how that happened. :laughing:

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 4]
```diff
@@ -0,0 +1,89 @@
...
+    (h : EqvGen (Quot.Rel F) c d) : Zigzag c.1 d.1 := by
+  induction h with
+  | rel _ _ h => exact Zigzag.of_hom <| Exists.choose h
+  | refl _ => exact Zigzag.refl _
+  | symm _ _ _ ih => exact zigzag_symmetric ih
+  | trans _ _ _ _ _ ih₁ ih₂ => exact ih₁.trans ih₂
+
+/-- An index category is connected iff the colimit of the constant singleton-valued functor is a
+singleton. -/
+theorem isConnected_iff_colimit_constPUnitFunctor_iso_pUnit
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IsConnected.lean:80]: I think it would be nice to state also `IsConnected C ↔ Nonempty (IsColimit (pUnitCocone.{w} C))`.
Otherwise, it looks good to me.

Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean:80]: I finally managed to implement that one. While I tried getting rid of the `have` instance, I found no good way, so I kept it.

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 5]
```diff
@@ -0,0 +1,97 @@
...
+import Mathlib.CategoryTheory.Limits.Types
+import Mathlib.CategoryTheory.IsConnected
+
+/-!
+# Colimits of connected index categories
+
+This file proves that a category $\mathsf{C}$ is connected if and only if `colim F` is a singleton,
+where `F.obj _ = PUnit` (in a `Type _` category).
+
+See `connected_iff_colimit_const_pUnit_iso_pUnit` for the proof of this characterization and
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IsConnected.lean:15]: Here, you should update the name of lemma.

File: Mathlib/CategoryTheory/Limits/IsConnected.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+`unitValuedFunctor` for the definition of the constant functor used in the statement.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/IsConnected.lean:16]: The name of `unitValuedFunctor` also changed.

File: Mathlib/CategoryTheory/Limits/IsConnected.lean (hunk 5 above)
Comment (datokrat) [reply Mathlib/CategoryTheory/Limits/IsConnected.lean]: Thanks, I've updated the names in the docstring and also incorporated other new lemmas.
